US04187373
7,12-Benz[a]anthracene dicarboxaldehyde
A mixture of isomers of 7,12-dihydro-7,12-benz[a]anthracene dicarboxaldehyde [Newman & Din, J. Org. Chem. 36, 967 (1971)] is suspended in 75 ml. of glacial acetic acid, treated with 6 g. of ferric chloride hexahydrate and stirred at room temperature for 3 hours. The remaining yellow solid is filtered off, washed with acetic acid and water leaving the yellow product, m.p. 197°-198° C.

reactant | 7,12-dihydro-7,12-benz[a]anthracene dicarboxaldehyde | C1=CC=CC=2C1=C1C(C3=CC=CC=C3C(C1=CC2)C=O)C=O | C20H14O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7,12-Benz[a]anthracene dicarboxaldehyde | C1=CC=CC=2C1=C1C(=C3C=CC=CC3=C(C1=CC2)C=O)C=O | C20H12O2
